US03950307
Preparation of N-(Pentabromobenzoyl)-3,4,5,6-tetrabromophthalimide
The potassium salt of 3,4,5,6-tetrabromophthalimide (0.10 mole) and dioxane (1200 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. Pentabromobenzoyl chloride (0.10 mole) is then added dropwise, with stirring, to the reaction mixture at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 1 hour. After this time the reaction mixture is filtered and the filtrate is stripped of solvent to yield the desired product N-(pentabromobenzoyl)-3,4,5,6-tetrabromophthalimide.

reactant | potassium | [K] | K
reactant | 3,4,5,6-tetrabromophthalimide | 0.10 mole | BrC1=C2C(C(=O)NC2=O)=C(C(=C1Br)Br)Br | C8HBr4NO2
reactant | Pentabromobenzoyl chloride | 0.10 mole | BrC1=C(C(=C(C(=C1C(=O)Cl)Br)Br)Br)Br | C7Br5ClO
solvent | dioxane | 1200 ml | O1CCOCC1 | C4H8O2
product | N-(pentabromobenzoyl)-3,4,5,6-tetrabromophthalimide | BrC1=C(C(=C(C(=C1C(=O)N1C(C=2C(C1=O)=C(C(=C(C2Br)Br)Br)Br)=O)Br)Br)Br)Br | C15Br9NO3
